US08754079B2
243.1 4-(4-Fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
A mixture of 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (500 mg), 2-amino-5-fluor-phenol (265 mg) and p-toluenesulfonic acid (75 mg) in dioxane (5 ml) was stirred at 140° C. for 15 minutes under microwave radiation. The reaction mixture was allowed to cool, filtered and the filtercake was washed with dioxane, MeOH and diethyl ether to give the desired product.

reactant | 4-chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 500 mg | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | 2-amino-5-fluor-phenol | 265 mg | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | p-toluenesulfonic acid | 75 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O)S1)C | C15H12FN3O3S
